US06562978B1
1-tert-Butoxycarbonyl-4-(4-aminobenzyl)piperidine
To the solution of 1-tert-butoxycarbonyl-4-(4-nitrobenzyl)piperidine (4.53 g, 14.2 mmol) in methanol-tetrahydrofuran (1:1, 100 mL) were added activated carbon (2 g) and anhydrous ferric chloride (250 mg). To the mixture was added hydrazine monohydrate (5.64 mL), and the mixture was heated for 26 hours under ref lux. The reaction mixture was cooled to room temperature, the activated carbon was filtered off. The activated carbon was washed with metahnol. The filtrate and washings were combined, and concentrated under reduced pressure. The concentrate was purified by silica gel column chromatography (hexane/ethyl acetate=2/3) to give the titled compound (4 g) as colorless powdery crystals.

reactant | 1-tert-butoxycarbonyl-4-(4-nitrobenzyl)piperidine | 14.2 mmol, 4.53 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CC1=CC=C(C=C1)[N+](=O)[O-] | C17H24N2O4
reactant | hydrazine monohydrate | 5.64 mL | O.NN
solvent | methanol tetrahydrofuran | 100 mL | CO.O1CCCC1
product | 1-tert-Butoxycarbonyl-4-(4-aminobenzyl)piperidine | 4 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CC1=CC=C(C=C1)N | C17H26N2O2
